US04435404
3.8 Grams of 6-[3-(p-nitrophenoxycarbonyl)propoxy]carbostyril was dissolved in 40 ml of dimethylformamide, then 1.6 ml of N-(2-hydroxyethyl)cyclohexylamine was added thereto and the reaction mixture was stirred at 60°-70° C. for 12 hours. After the reaction was completed, the solvent was removed by distillation and the residue thus obtained was purified by a silica-gel column chromatography [Silica-gel used was "Wako C-200" and the solvent used was a mixture of chloroform:methanol=20:1 (vol/vol)]. The crude crystals thus obtained was recrystallized from chloroform-petroleum ether to obtain 1.3 g of 6-{3-[N-(2-hydroxyethyl)-N-cyclohexylaminocarbonyl]propoxy}carbostyril as in the form of colorless needle-like crystals. Melting point: 165°-166° C.

reactant | 6-[3-(p-nitrophenoxycarbonyl)propoxy]carbostyril | [N+](=O)([O-])C1=CC=C(OC(=O)CCCOC=2C=C3C=CC(NC3=CC2)=O)C=C1 | C19H16N2O6
reactant | N-(2-hydroxyethyl)cyclohexylamine | 1.6 ml | OCCNC1CCCCC1 | C8H17NO
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 6-{3-[N-(2-hydroxyethyl)-N-cyclohexylaminocarbonyl]propoxy}carbostyril | 1.3 g | OCCN(C(=O)CCCOC=1C=C2C=CC(NC2=CC1)=O)C1CCCCC1 | C21H28N2O4
